US04401601
3.81 ml of a cyclohexane solution of 1.75M of butyllithium were added at -30° to -40° C. to a mixture of 1.05 ml of diisopropylamine and 4 ml of tetrahydrofuran and the mixture was stirred for 10 minutes and was then cooled to -60° to -70° C. Then 1.22 g of p-tolyl isopropylsulfone were added to the mixture which after 15 minutes of contact was poured over 10 minutes under an inert atmosphere into a solution of 0.5 g of dimethylacrylonitrile and 4 ml of tetrahydrofuran at -60° to -70° C. The mixture was stirred for 30 minutes at -60° to -70° C. and was then poured into an aqueous saturated monosodium phosphate solution. The mixture was extracted with benzene and the organic phase was dried and evaporated to dryness. The residue was crystallized from isopropyl ether to obtain 0.740 g of 4-p-tolylsulfonyl-4,3,3,-trimethyl-pentanenitrile melting at 126° C.

reactant | butyllithium | 1.75M | C(CCC)[Li]
reactant | diisopropylamine | 1.05 ml | C(C)(C)NC(C)C | C6H15N
reactant | p-tolyl isopropylsulfone | 1.22 g | C1(=CC=C(C=C1)S(=O)(=O)C(C)C)C | C10H14O2S
reactant | dimethylacrylonitrile | 0.5 g | CC(=CC#N)C | C5H7N
reactant | monosodium phosphate | P(=O)([O-])(O)O.[Na+]
reactant | cyclohexane | 3.81 ml | C1CCCCC1 | C6H12
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 4-p-tolylsulfonyl-4,3,3,-trimethyl-pentanenitrile | 0.740 g | C1(=CC=C(C=C1)S(=O)(=O)C(C(CC#N)(C)C)(C)C)C | C15H21NO2S
